US08466181B2
6-(4-(1-(4-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)-N-(3-methyloxetan-3-yl)nicotinamide
As described for example 36b, 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (56 mg, 0.154 mmol) was converted, using 3-methyloxetan-3-amine instead of isopropylamine, to the title compound (57 mg, 86%) which was obtained as an off white solid. MS: m/e=434.3 [M+H]+.

reactant | 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.154 mmol, 56 mg | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
reactant | 3-methyloxetan-3-amine | CC1(COC1)N | C4H9NO
product | 6-(4-(1-(4-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)-N-(3-methyloxetan-3-yl)nicotinamide | 57 mg, 86% | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)NC2(COC2)C)C=C1)C | C22H20FN7O2
